US09402841B2
Step A: (S)-tert-butyl 3-((3-cyanoisoquinolin-1-yl)(methyl)amino)pyrrolidine-1-carboxylate
To (S)-tert-butyl 3-((3-cyanoisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate (235 mg, 0.694 mmol) in DMF (6 mL) was added NaH (27.8 mg, 0.694 mmol) and methyl iodide (0.052 mL, 0.833 mmol) at 0° C. The reaction mixture was allowed to warm to RT with stirring over a 2 hour period and was subsequently diluted with EtOAc and washed with aqueous NH4Cl, water, and brine. The organic layer was dried over Na2SO4, filtered, and concentrated. Toluene (2×5 mL) was added and removed in vacuo to give the title compound as a crude residue.

reactant | (S)-tert-butyl 3-((3-cyanoisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate | 0.694 mmol, 235 mg | C(#N)C=1N=C(C2=CC=CC=C2C1)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C19H22N4O2
reactant | NaH | 0.694 mmol, 27.8 mg | [H-].[Na+]
reactant | methyl iodide | 0.833 mmol, 0.052 mL | CI | CH3I
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl 3-((3-cyanoisoquinolin-1-yl)(methyl)amino)pyrrolidine-1-carboxylate | C(#N)C=1N=C(C2=CC=CC=C2C1)N([C@@H]1CN(CC1)C(=O)OC(C)(C)C)C | C20H24N4O2
